US05840975
3-Fluorobenzoyl chloride
300 g of 3-fluorobenzotrichloride and 1.5 g of iron chloride are placed in an apparatus comprising a 1 l four necked flask equipped with stirrer, thermometer, reflux condenser and dropping funnel. The mixture was heated to 80° C. A total of 53 ml of formic acid were then added over 5 hours in such a manner that the temperature could readily be maintained.

reactant | 3-fluorobenzotrichloride | 300 g | FC=1C=C(C=CC1)C(Cl)(Cl)Cl | C7H4Cl3F
reactant | formic acid | 53 ml | C(=O)O | CH2O2
catalyst | iron chloride | 1.5 g | [Fe](Cl)Cl
product | 3-Fluorobenzoyl chloride | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
